US06248766B1
A solution of ethyl[(6-bromo-5,6,7,8-tetrahydro-5-oxo-1-naphthalenyl)oxy]acetate (2.16 g, 6.61 mmol) and phenylthioacetamide (1.00 g, 6.61 mmol) in a mixture of ethanol (25 mL) and N,N-dimethylformamide (5 mL) was stirred at 60° C. for 14 hours and, then, refluxed for 2 hours. After cooling, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane-ethyl acetate=1:5) to provide ethyl[(2-benzyl-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetate (540 mg). To a solution of this compound (0.54 g, 1.42 mmol) in a mixture of tetrahydrofuran (16 mL) and methanol (4 mL) was added 1N-hydrochloric acid followed by extraction with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to provide 320 mg of the title compound. Yield 14%.

reactant | ethyl[(6-bromo-5,6,7,8-tetrahydro-5-oxo-1-naphthalenyl)oxy]acetate | 6.61 mmol, 2.16 g | C(C)OC(COC1=CC=CC=2C(C(CCC12)Br)=O)=O | C14H15BrO4
reactant | phenylthioacetamide | 6.61 mmol, 1.00 g | C1(=CC=CC=C1)CC(=S)N | C8H9NS
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl[(2-benzyl-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetate | 540 mg | C(C)OC(COC1=C2CCC3=C(N=C(S3)CC3=CC=CC=C3)C2=CC=C1)=O | C22H21NO3S
